US09023840B2
Step 4: N-isopropyl-4-(3-oxoazetidin-1-yl)benzamide
To a cooled (−78° C.) solution of oxalyl chloride (1.05 mL, 12.4 mmol) in dichloromethylene (20 mL) was added dropwise dimethyl sulfoxide (1.71 mL, 24.1 mmol). The mixture was stirred at −78° C. for 10 minutes. Then a suspension of 4-(3-hydroxyazetidin-1-yl)-N-isopropylbenzamide (1.72 g, 7.34 mmol) in dichloromethylene (20 mL) was added. The mixture was stirred at −78° C. for 1 hour, and then triethylamine (7.04 mL, 50.5 mmol) was added. The mixture was stirred at −78° C. for an additional 1.5 hour. The mixture was washed with aq. NaHCO3 and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The precipitates were washed with ether and collected by filtration to afford the desired product (1.32 g, 77%) which was directly used in the next step reaction without further purification. LCMS (M+H)+: m/z=233.1.

reactant | oxalyl chloride | 12.4 mmol, 1.05 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 24.1 mmol, 1.71 mL | CS(=O)C | C2H6OS
reactant | 4-(3-hydroxyazetidin-1-yl)-N-isopropylbenzamide | 7.34 mmol, 1.72 g | OC1CN(C1)C1=CC=C(C(=O)NC(C)C)C=C1 | C13H18N2O2
reactant | triethylamine | 50.5 mmol, 7.04 mL | C(C)N(CC)CC | C6H15N
product | N-isopropyl-4-(3-oxoazetidin-1-yl)benzamide | 1.32 g, 77% | C(C)(C)NC(C1=CC=C(C=C1)N1CC(C1)=O)=O | C13H16N2O2
